US05059597
5.2 g of ethyl 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are heated under reflux in a mixture of 38 ml of acetic acid, 30 ml of water and 4.3 ml of concentrated sulphuric acid for 2.5 hours. After cooling, the mixture is poured into 250 ml of ice-water and the precipitate is filtered off with suction, washed with water and dried. 4.8 g of 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 277°-278° C. are obtained.

reactant | ethyl 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 5.2 g | ClC1=C2C(C(=CN(C2=CC(=C1F)Cl)C1CC1)C(=O)OCC)=O | C15H12Cl2FNO3
reactant | water | 30 ml | O | H2O
reactant | sulphuric acid | 4.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.8 g | ClC1=C2C(C(=CN(C2=CC(=C1F)Cl)C1CC1)C(=O)O)=O | C13H8Cl2FNO3
